US04363805
Preparation analogously to Example 38 by the reaction of sodium phenolate with 1,6-dibromohexane to give 6-phenoxy-1-bromohexane (b.p.11 =172°-5°; yield 77%), which is reacted with excess 5-amino-5-desoxy-1.4;3.6-dianhydro-L-iditol 2-nitrate. Isolation as hydrochloride. Yield, after recrystallisation from isopropanol: 53%.

reactant | sodium phenolate | C1(=CC=CC=C1)[O-].[Na+]
reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
product | 6-phenoxy-1-bromohexane | yield 77% | O(C1=CC=CC=C1)CCCCCCBr | C12H17BrO
